US09293712B2
4-([1,1′-biphenyl]-2-yl(6-cyclohexyldibenzo[b,d]furan-4-yl)amino)phenol (8.1 g, 16.0 mmol) was dissolved in DCM (100 mL) and the mixture was cooled down to 0° C. After that, pyridine (4.2 mL, 52.0 mmol) and trifluoromethanesulfonic anhydride (4.4 mL, 26.0 mmol) were added at 0° C. The mixture was stirred for 20 h and allowed to warm from 0° C. to room temperature. The reaction mixture was quenched by the addition of saturated K2CO3 solution and extracted by DCM. The extracts were dried over MgSO4 and the solvent was removed in vacuo. The residue was purified by flash chromatography using 5% DCM/hexane (containing 0.25% triethylamine) to yield 4-([1,1′-biphenyl]-2-yl(6-cyclohexyldibenzo[b,d]furan-4-yl)amino)phenyl trifluoromethanesulfonate (8.6 g, 84% yield) as a white solid.

reactant | 4-([1,1′-biphenyl]-2-yl(6-cyclohexyldibenzo[b,d]furan-4-yl)amino)phenol | 16.0 mmol, 8.1 g | C1(=C(C=CC=C1)N(C1=CC=C(C=C1)O)C1=CC=CC2=C1OC1=C2C=CC=C1C1CCCCC1)C1=CC=CC=C1 | C36H31NO2
reactant | pyridine | 52.0 mmol, 4.2 mL | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethanesulfonic anhydride | 26.0 mmol, 4.4 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | 4-([1,1′-biphenyl]-2-yl(6-cyclohexyldibenzo[b,d]furan-4-yl)amino)phenyl trifluoromethanesulfonate | 8.6 g, 84% yield | FC(S(=O)(=O)OC1=CC=C(C=C1)N(C1=CC=CC2=C1OC1=C2C=CC=C1C1CCCCC1)C1=C(C=CC=C1)C1=CC=CC=C1)(F)F | C37H30F3NO4S
